US07863291B2
To 5-(4-methoxyphenyl)thiazol-2-amine (1.07 g, 5.19 mmol) in acetonitrile (30 mL) and tetrahydrofuran (5 mL) was added di(1H-imidazol-1-yl)methanethione (1.20 g, 6.74 mmol). The reaction was stirred at 60° C. for 18 hours. The reaction was cooled to room temperature and the precipitate was filtered. The powder was washed with cold acetonitrile (2×15 mL) and dried to yield N-(5-(4-methoxyphenyl)thiazol-2-yl)-1H-imidazole-1-carbothioamide (0.59 g, 1.86 mmol, 35.9% yield) as a orange-brown powder. The product was taken directly to the next step without any further characterization.

reactant | 5-(4-methoxyphenyl)thiazol-2-amine | 5.19 mmol, 1.07 g | COC1=CC=C(C=C1)C1=CN=C(S1)N | C10H10N2OS
reactant | di(1H-imidazol-1-yl)methanethione | 6.74 mmol, 1.20 g | N1(C=NC=C1)C(=S)N1C=NC=C1 | C7H6N4S
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-(5-(4-methoxyphenyl)thiazol-2-yl)-1H-imidazole-1-carbothioamide | 1.86 mmol, 0.59 g, 35.9% yield | COC1=CC=C(C=C1)C1=CN=C(S1)NC(=S)N1C=NC=C1 | C14H12N4OS2
